US04225734
A slurry of titanium trichloride (1.54 gm, 10.0 mmol) in 30 ml dry tetrahydrofuran was prepared under an inert atmosphere, and powdered lithium aluminum hydride (190 mg, 5.0 mmol) was cautiously added. The resulting solution was stirred for two hours at room temperature to form the Ti(II) reagent, and a solution of para-methoxypropiophenone (820 mg, 5 mmol) in 5 ml dry tetrahydrofuran was added. The reaction was refluxed for four hours, and then poured into 50 ml 2 N aqueous hydrochloric acid. The solution was extracted several times with ether, and the ether extracts were combined, washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated by solvent removal at the rotary evaporator. The residue was purified by chromatography on alumina to give 630 mg (85% yield) dimestrol; mp 124°.

reactant | para-methoxypropiophenone | 5 mmol, 820 mg | COC1=CC=C(C=C1)C(CC)=O | C10H12O2
reactant | hydrochloric acid | 2 N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | dimestrol | 630 mg, 85% yield | CC/C(=C(/CC)\C1=CC=C(C=C1)OC)/C2=CC=C(C=C2)OC | C20H24O2
